Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.25423180701
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],4.07689989328
[C:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]=[C:9]([H:8])[H:10].[C:6]([H:7])=[C:11]([H:12])[H:13],5.07221865473
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],4.02412436961
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5],4.91752503251
[C:6]([H:7])[H:8].[H:1][C:2][C:4]([H:3])([H:5])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-8.83028874885
[O:1][C@@:2]([H:3])([C:4]=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[C:4][C:5][O:6].[O:1]=[C:2]([H:3])[C:7]([H:8])([H:9])[H:10],0.702507235027
[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-4.434410812149999
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],4.62868276494
[H:3].[O:1]=[C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-4.46256317765
[H:1][C:2][O:3][C:4]([H:5])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.809489122830002
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3],3.36182134
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-4.91148231946
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],4.93683502063
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9],7.31379009746
[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.81059172007
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:11][H:12],8.66428006217
[C:1]=[C:2]([H:3])[C:4](=[O:5])[H:6]>>[C:1]#[C:2][H:3].[C:4](=[O:5])[H:6],3.29608404293
[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.2572607752900025
[H:1][C:2]([C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.3174175556
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.6474836286000003
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.82831586756
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.18442414125
[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-2.04335637487
[C:1]=[C:2]([H:3])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11].[H:4]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],-1.77941620106
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:10](=[O:9])[H:11]>>[O:1]=[C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],1.76401887967
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.69233347813
